US09399623B2
6-Chloro-2-(3,6-dihydro-2H-pyran-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexyl methyl)-amide (31)
The title compound was synthesized according to the procedure described in example 125 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, cesium carbonate, 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran and tetrakis(triphenylphosphine)palladium (0). 1H NMR (400 MHz, DMSO-d6): δ ppm 8.85 (t, J=6.00 Hz, 1H), 7.95-8.05 (m, 3H), 7.77 (d, J=9.00 Hz, 1H), 6.98 (s, 1H), 4.33-4.35 (m, 2H), 3.86 (t, J=5.48 Hz, 2H), 3.26-3.28 (m, 2H), 2.66-2.70 (m, 2H), 2.00-2.07 (m, 2H), 1.74-1.87 (m, 5H), 1.23-1.31 (m, 2H). m/z: 421 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran | CC1(OB(OC1(C)C)C=1CCOCC1)C | C11H19BO3
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Chloro-2-(3,6-dihydro-2H-pyran-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C=1CCOCC1)F | C22H23ClF2N2O2
